Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L facial droop; slurred speech
 
Major Surgical or Invasive Procedure:
TEE

 
History of Present Illness:
___ is a ___ year old woman with a  past medical
history of hypertension and hyperlipidemia who presented to the
ED with acute onset left facial droop and slurred speech this
morning. 

History is obtained from patient and her husband at bedside. 
Patient and husband both report that she went to sleep last 
night
in her usual state of health, with no left facial droop; this is
the last time she was known well.  Patient woke up earlier than
her husband, and she said that she did some laundry and then 
went
to a local grocery to get a breakfast sandwich, but when she got
there they did not have what she wanted so she drove back home
after buying nothing.  Her husband was awake when she got home,
and he was talking to her from the other room.  At this time, he
says that he felt that her speech seemed a little bit off.  He
thinks this was about 9 AM.  He was then watching her make
breakfast, and he noticed that when she was cutting the bagel,
and sensitive slicing the bagel lengthwise, she used a knife and
cut a chunk out of the bagel, and then tried to stuff the whole
thing in the toaster.  This was very unusual for her, as she
often makes breakfast without any issue.  He also mentions that
she was cooking bacon and eggs and a "funny way" but could not
give me more details on this.  They then sat down to eat, and he
felt that the left side of her face was drooping.  When she 
would
eat, a little bit of drool her food was falling out of the left
side.  He also felt that when she was eating, she would have 
food
on her left lower face, but she could not feel that this was
there.  As her speech continued to be a little slurred, he
decided to call EMS because he was concerned she was having a
stroke.  They were brought directly to ___. currently,
patient's husband feels that her speech is not back to normal,
and that her left facial droop persists. 

In terms of her past medical history, patient has not seen a
doctor for many years.  Right after ___, the
patient developed a pretty serious nosebleed and presented to 
the
ED for attention.  There, she was diagnosed with hypertension 
and
has subsequently been following up with primary care doctor.  
She
has been started on atorvastatin, valsartan and amlodipine. 
These medications were started the first week of ___, and
since initiation she has been compliant with this regimen.  She
has a blood pressure checked every few weeks, and says that last
week her systolic blood pressure was 130.

Notably, patient has a large ulcerated lesion in her left lower
lip.  She says that this has been there for a few months.  She
says that she spoke to her by her primary care doctor about it,
and was given a cream and was told it was a cold sore.  It is
unclear if she is followed up with her primary care doctor since
the lesion did not resolve on its own.  She says that it has 
been
getting bigger.  She has not had a biopsy. 

On review of systems, patient endorses intermittent tingling in
the tips of her fingers bilaterally after returning to warmth
from being outside in the cold.  She also endorses long-standing
ear issues as she had multiple ear surgeries as a child, but she
is not currently experiencing tenderness.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae (except as above). No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

In the ED, ___ showing acute right MCA infarct. CTA showing 
right
M2 cutoff. Discussed with stroke fellow the consideration of
thrombectomy, as patient was within 24 hours of LKW. However, at
the time of this discovery (3:18pm), patient's repeat
neurological exam was overall stable. On repeat exam she
extinguished to DSS, and she had decreased pinprick (though not
absent) on the left compared to the right (NIHSS 3). Decision 
was
made to load with Plavix 600mg in the ED and start aspirin 81mg,
with plan to continue Plavix 75mg daily and ASA 81mg daily. 
 
Past Medical History:
HTN;
hyperlipidemia
 
Social History:
___
Family History:
No seizures or strokes.
 
Physical Exam:
PE (admit):
General: Awake, thin, appears older than stated age, 
cooperative,
anxious appearing.
HEENT: No scleral icterus, large ulcerated lesion on left lower
lip
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, no murmurs appreciated, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes noted
 
Neurologic:  
The NIHSS was performed: 
Date: ___
Time: 11:50 AM
(within 6 hours of patient presentation or neurology consult) 
 
___ Stroke Scale score was : 2
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 0
8. Sensory: 0
9. Language: 0
10. Dysarthria: 1
11. Extinction and Neglect: 0

-Mental Status: Alert, oriented, attentive. Language is fluent
with intact repetition and comprehension. She is inattentive
during exam, requiring repeated redirection to keep her eyes
closed during various maneuvers. Normal prosody. There
were no paraphasic errors. Pt. was able to name both high and 
low
frequency objects. Able to read without difficulty.Speech was
mildly dysarthric, most prominently with guttural sounds. Able 
to
follow both midline and appendicular
commands, albeit with some hesitation and cueing required. When
asked to demonstrate common movements, she had some difficulty
showing me how she would brush her teeth or hammer a nail. When
asked to demonstrate these activities in more detail (putting
toothpaste on tooth brush etc) she was unable todo this. She was
not neglecting either side. She did seem rather blasé about the
fact that she might have a stroke. 

CN  
I: not tested  
II,III: VFF to confrontation, pupils 2mm->1mm bilaterally.
III,IV,VI: EOMI with no nystagmus. Left ptosis.   
V: sensation intact V1-V3 to LT and pinprick, symmetric 
sensation
bilaterally  
VII: Symmetric forehead wrinkling. At rest, the there is L NLFF
with her left mouth appearing lower than the right. The left
activates slightly less than the right. She has strong eye
closure bilaterally. Strong mouth closure bilaterally.  
VIII: hears finger rub bilaterally  
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes slightly to the left, + dysarthria,
guttural sounds most prominent 

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. Left arm lifts up slightly. 
  Delt Bi Tri WE FE Grip  IO  
  C5   C6 C7  C6 C7 C8/T1 T1  
L 5    ___  5- 5     4
R 5    ___  5  5     5
 
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L 5  5     5    ___ 
R 5  5     5    ___

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L ___   2   1  Up 
R ___   2   ___ Flexor 

-Sensory: Absent cortical sensory testing on the left. No
deficits to light touch or pinprick in the upper or lower
extremities bilaterally. No extinction to DSS. (On repeat exam,
extinguished to DSS and had decreased sensation to pinprick in
the left hemibody). 
 
-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF bilaterally.  

-Gait: Able to stand without assistance. Can take a few steps on
her toes and heels. Walking limited by telemetry and blood
pressure monitoring, but appeared narrow based. Romberg absent.

PE (D/C):
Gen: Awake; NAD.
HEENT: NC/AT. No scleral icterus. MMM. Poor dentition.
Pulm: Nonlabored breathing.
CV: Well-perfused throughout.
Abd: Soft, ND.
Extrem: No ___ edema. B/l feet w/ moderately high arches.
Skin: Fine wrinkles consistent w/ chronic tobacco use.
Neur:
MS: A&Ox3. Fluent speech. Normal affect.
CN: PERRL. Fully intact visual fields. EOMI. Mild L ptosis. Full
b/l forehead wrinkling. Mild L NLF flattening and decreased
activation.
Mot: Normal tone and bulk throughout. L finger extensors, IP, 
and
knee flexors ___, remainder of L extremities ___. R extremities
___ throughout.
___: Intact to light touch bilaterally.
Reflex: Deferred.
Coordin: Slow finger tapping on L.
Gait: Deferred.
 
Pertinent Results:
___ 06:20AM BLOOD WBC-6.8 RBC-4.13 Hgb-13.3 Hct-40.0 MCV-97 
MCH-32.2* MCHC-33.3 RDW-13.8 RDWSD-49.6* Plt ___
___ 06:20AM BLOOD ___ PTT-29.6 ___
___ 06:20AM BLOOD Glucose-95 UreaN-25* Creat-1.3* Na-141 
K-3.9 Cl-107 HCO3-22 AnGap-12
___ 11:43AM BLOOD ALT-17 AST-19 AlkPhos-177* TotBili-0.6
___ 06:20AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.1
___ 08:45AM BLOOD %HbA1c-5.8 eAG-120
___ 08:45AM BLOOD Triglyc-121 HDL-44 CHOL/HD-2.9 LDLcalc-60
___ 08:45AM BLOOD TSH-3.0
___ 11:43AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Key Information for Outpatient Providers:Ms. ___ 
has gone by last name ___ is a ___ y/o woman w/ 
HTN and hyperlipidemia who presented after acute onset L facial 
droop and slurred speech.
Presented to ED. Neurology exam also notable for mild L-body 
weakness and limited insight into her acute deficits.
Admitted for stroke w/up.

CTA showed an acute R MCA occlusion (M1 vs. M2). CT and MRI 
brain showed subacute infarct in the superior division of that 
territory.
Started on ASA and clopidogrel.

Transthoracic and transesophageal echocardiograms that showed 
moderate aortic regurgitation; no other notable findings. Pt had 
no CV symptoms. Cardiology recommended f/up TTE in ___ year.

Also noted to have increasing BUN/Cr that had started to 
decrease by ___ (last BUN 25, Cr 1.3).

Pt had no acute events while inpt.
Discharged to continue rehab at home w/ home ___ (per ___ 
recommendations).

====================
Transitional issues
====================
F/up w/ primary care who will need to refer pt to Neurology.
___: Repeat transthoracic echocardiogram.
 
Medications on Admission:
- Atorvastatin 40mg 
- Amlodipine 5
- Valsartan 80mg
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
3.  Atorvastatin 40 mg PO QPM  
4.  Blistex Lip Ointment 1 Appl TP DAILY 
RX *lip protectant [Blistex Medicated] 0.6 %-0.5 %-1.1 %-0.5 % 
Use for cold sore once a day Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ischemic stroke (R MCA territory)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

  You were admitted to the hospital because you sustained an 
ischemic stroke in the right side of your brain. To decrease the 
risk of more strokes, we started you on two blood thinning 
medications: Aspirin and clopidogrel.

  You were also found to have aortic regurgitation, which should 
be followed by your primary care. You should have a follow-up 
echocardiogram in ___ year.
  To further aid your recovery, you will also have physical 
therapy at home.
  You should follow-up with your primary care and with a 
neurologist.

It was a pleasure taking care of you.
 - Your ___ Neurology team.
 
Followup Instructions:
___